US04053601
Aluminum chloride (148 g, 1.11 mole) was added to a stirred mixture of 4-cyanophenol (44 g, 0.37 mole), succinic anhydride (33.3 g, 0.33 mole), and sym-tetrachloroethane (260 ml), and the mixture was then heated at 135° for 2 hours. The resultant complex was decomposed with ice and hydrochloric acid, and 3-(5-cyano-2-hydroxybenzoyl)propionic acid was isolated by standard procedures.

reactant | Aluminum chloride | 1.11 mole, 148 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-cyanophenol | 0.37 mole, 44 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | succinic anhydride | 0.33 mole, 33.3 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | hydrochloric acid | Cl | ClH
solvent | sym-tetrachloroethane | 260 ml | C(C(Cl)Cl)(Cl)Cl | C2H2Cl4
product | 3-(5-cyano-2-hydroxybenzoyl)propionic acid | C(#N)C=1C=CC(=C(C(=O)CCC(=O)O)C1)O | C11H9NO4
